US06894075B2
Synthesis of N-t-butyloxycarbonyl-alanine (4-1)
L-alanine (445 mg, 5 mmol) was dissolved in a solvent mixture of 1N NaOH (17 ml), distilled water (9 ml) and 1,4-dioxane (17 ml) and cooled to 0° C. Di-t-butyl dicarbonate (1.2 g, 5.5 mmol) was added for about 5 minutes bit by bit. The reaction solution was stirred for about 5 minutes at 0° C., warmed to room temperature, and then stirred for further about 2 hours. The reaction solution was concentrated under reduced pressure to remove 1,4-dioxane. To the remaining solution was added 1N-HCl to make the solution acidic. The remaining solution was extracted three times with ethyl acetate (30 ml×3). The extracts were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 850 mg of the title compound, which was not purified any more.

reactant | L-alanine | 5 mmol, 445 mg | N[C@@H](C)C(=O)O | C3H7NO2
reactant | Di-t-butyl dicarbonate | 5.5 mmol, 1.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1N, 17 ml | [OH-].[Na+]
product | N-t-butyloxycarbonyl-alanine | 850 mg, Yield: 90% | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
